US07612092B2
Methyl 4-(3-chloro-4-[(phenoxycarbonyl)amino]phenoxy}-7-(2-methoxyethoxy)-6-quinolinecarboxylate
Methyl 4-(4-amino-3-chlorophenoxy)-7-(2-methoxyethoxy)-6-quinolinecarboxylate (3.2 g), pyridine (0.71 ml) and tetrahydrofuran (50 ml) were stirred while cooling on ice, and then 1.1 ml of phenyl chloroformate was added dropwise. After 40 minutes, 0.8 ml of pyridine and 1.1 ml of phenyl chloroformate were added and the mixture was stirred for an additional 10 minutes. Water was added, extraction was performed with ethyl acetate, and the extract solution was passed through a glass filter coated with silica gel. The silica gel was washed with ethyl acetate, the solvent was distilled off under reduced pressure, hexane and ethyl acetate were added to the residue and the solid was filtered out to obtain 3.2 g of a faint red solid.

reactant | Methyl 4-(4-amino-3-chlorophenoxy)-7-(2-methoxyethoxy)-6-quinolinecarboxylate | 3.2 g | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)OC)OCCOC)C=C1)Cl | C20H19ClN2O5
reactant | pyridine | 0.71 ml | N1=CC=CC=C1 | C5H5N
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | phenyl chloroformate | 1.1 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyridine | 0.8 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 1.1 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | Water | O | H2O
product | Methyl 4-(3-chloro-4-[(phenoxycarbonyl)amino]phenoxy}-7-(2-methoxyethoxy)-6-quinolinecarboxylate | 3.2 g | ClC=1C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)OC)OCCOC)C=CC1NC(=O)OC1=CC=CC=C1 | C27H23ClN2O7
